Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"My friend recommended psych service at ___
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ divorced female with a ___ yo 
autistic son in custody of her step mom and a hx of hepatitis C, 
EtoH/Cocaine dependence, ADHD, anxiety and depression (?___)
with 4 prior psychiatric hospitalizations most recently at 
___ in ___ and a significant family hx of ___ who was 
brought to the ED by a friend due to increasing heavy 
EtOH/cocaine use in
the setting of worsening depression. 
 
In the ED labs were notable for serum EtOH of 264 and tox screen 
positive for cocaine. Her last drink was around 1pm, minutes 
before arriving to the ED. She reports drinking 4
"twisted teas today" but has had more drinks in the past 24 
hours. Her increasing substance use began in ___ when she 
started drinking an average of 6 "twisted teas" or ___ hard
lemonade" and using $300 worth of cocaine (mostly crack) on a 
daily basis.  She also endorses depressed mood, anhedonia, poor 
sleep, anergia, reduced ability to concentration, and anorexia.
She reports her current mood as "sad" and "hopeless" and reports 
some passive SI stating that she would "not care if a car hit 
me" but denies any active SI or HI. When asked why she would not
commit suicide, she says that she thinks it would be a "selfish 
and cowardly" thing to do and she doesn't want her son to lose 
his mother.  She reports that her current depression is the
"worst it has ever been".   

She notes that her gradual increase in substance use is in the 
setting of multiple stressors including the recent death of her 
father in ___, a gradual decrease in contact with her step
mom who is isolating her from her son, an impending eviction 
from her apartment, financial stresses and increasing social 
isolation. Another contributing factor is a recent interaction
with a previous partner, who in the past had abused her 
physically and emotionally, and has taken her total life savings 
of $10,000 from her.  She also reports being chronically anxious
and at times having episodes of SOB lasting for approximately 15 
min, although denies any palpitations, chest pain,  nausea, or 
vomiting. With regards to relationships she reports that she is
"alone" and she doesn't have "family, a trusting person, or 
anybody to care for me".  When further probed about this she 
notes her only support to be a ___, who she knows
from AA meetings, which she has not attended since her relapse 
in ___. She does not have a sponsor. She has most recently 
been hospitalized in ___ at ___ for a similar presentation 
as
this. With regards to care she reports that her psychiatrist is 
Dr. ___ at ___ who she sees once a 
month for approximately 15 minutes. She also gets care from her
social worker, ___, at ___ 
___.  She is currently not taking any medications but has 
most recently been on trileptal and adderall.  
 
Past Medical History:
PAST MEDICAL HISTORY: 
-PCP: ___. MD
-___ report)

PAST PSYCHIATRIC HISTORY:
-Dx: per report, ?___, ADHD, depression, anxiety
-Hospitalizations: ___ (___), ___ ___ ?),
___ (___), ___ ___. Per report all
hospitalizations were for similar presentation to above.
-SA/SIB: Denies SA or SIB.
-Harm to others: Denies any hx of harm to others but reports
being falsely charged for "assault and battery" by previous
partner. 
-Medication/ECT trials: Risperidone, Celexa, Prozac 
-Treaters: Psychiatrist- Dr. ___ at ___. ___ (social worker) at ___.
-Trauma: endorses hx of physical and emotional abuse by her
parents, as well as a previous partner. ___ hx of sexual
abuse. 
CURRENT MEDICATIONS: (confirmed with ___
-seroquel ___ qhs PRN anxiety, insomnia 
-recently prescribed Trileptal 300 BID, Adderall 10 BID but
patient admits to non-compliance
 
 
Social History:
Family of origin: raised in ___, ___ by both parents; she is 
the youngest of 4 children.
Childhood: Mother passed away when she was ___ years old, reports 
that her childhood was "not good" as she experienced physical 
trauma from her parents, reports a lot of "anger and rage" from
her parents growing up. Denies any sexual abuse. 
Education: Some college education.
Occupations/Income: Currently temporary SSDI that has to be 
renewed every 6 months for "depression". Last employment was in 
___ working for a ___ as an ___.
Housing: Lives alone in an apartment in ___. Reports that 
she is going to be evicted. 
Relationships/children: ___ yo visually impaired son with autism 
who is under the care of her step mom and goes to the ___ 
___ the blind. Reports that her step mom has gradually
decreased amount of contact with her over the years. She is not 
in contact with her ex-husband who she says has "disappeared a 
long time ago". She reports some minor support from a ___ and 
"some other people" who she has attended AA meeting in the past 
with.   
Legal hx: ___
Access to weapons: reports access to knives

 
Family History:
Psych illness:  Brother with ___ who died in ___ from "unknown
causes". Sister with ___. Otherwise reports maternal
grandfather, aunts and cousins with ___ and "mania". 
SAs: Sister was discharged from a hospital yesterday for suicide
attempt. 
Addiction: Brother and sister with hx Etoh/cocaine/amphetamine
abuse. Reports "many people" in family with EtOH abuse.  
 
Physical Exam:
General: Middle age female, NAD.
HEENT: PERRL, MMM, OP clear.
Neck: Supple. No adenopathy or thyromegaly.
Back: No significant deformity, no focal tenderness
Lungs: CTAB; no crackles or wheezes.
CV: RRR; no m/r/g; 2+ pedal pulses
Abdomen: Soft, NT, ND.
Extremities: No clubbing, cyanosis, or edema.
Skin: Warm and dry, no rash or significant lesions.
Neurological: CN ___ intact, no gross focal motor/sensory
deficits, gait wnl. Finger-nose-finger wnl.
 
Pertinent Results:
___ 02:00PM   GLUCOSE-91 UREA N-7 CREAT-0.7 SODIUM-135 
POTASSIUM-4.1 CHLORIDE-102 TOTAL CO2-22 ANION GAP-15
___ 02:00PM   estGFR-Using this
___ 02:00PM   ASA-NEG ___ ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 02:00PM URINE  HOURS-RANDOM
___ 02:00PM URINE  UCG-NEGATIVE
___ 02:00PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-POS amphetmn-NEG mthdone-NEG
___ 02:00PM   WBC-10.9 RBC-4.08* HGB-12.9 HCT-39.9 MCV-98 
MCH-31.7 MCHC-32.4 RDW-14.7
___ 02:00PM   NEUTS-54.9 ___ MONOS-6.9 EOS-4.1* 
BASOS-0.8
___ 02:00PM   PLT COUNT-535*
___ 02:00PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 02:00PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-NEG
 
Brief Hospital Course:
----Psychiatric
#Substance Induced Mood Disorder: The patient was admitted to 
the unit while withdrawing from alcohol and cocaine. We treated 
her withdrawal as outlined below. We explained to the patient 
that her low mood and depressive symptoms are likely due to her 
substance use and that with sobriety she will continue to note 
improved mood symptoms. The patient agreed that when "not using" 
that "things are better." The patient expressed her desire to 
remain sober and explained that she plans to work with 
outpatient resources to maintain sobreity upon discharge. The 
team explained to the patient that she has the option of 
attending a substance abuse treatment program in ___ and the 
patient indicated she is interested but of note agreed that 
logistics may be difficult. We also provided the patient wil 
local follow up with psychiatry and counseling in the likely 
event she is not able to get to ___. Of note the patient 
never endorsed any thoughts or plans of self harm or suicide 
during the ED visit or during this hospital stay and there were 
never any acute safety concerns.

#Alcohol Dependence and Withdrawal: The patient was immediately 
begun on a CIWA protocol and carefully monitored and treated for 
alcohol withdrawal. On day three her CIWA was removed as there 
as no e/o withdrawal at this point and she finished her detox on 
a valium taper that she was discharged home with. The patient 
was offered to stay over the weekend on the inpatient unit to 
complete her valium taper but declined stating she had to attend 
to other matters at this time including moving and seeing her 
son. She was provided with both individualized and group therapy 
regarding her drinking. She also noted that she reconnect with 
her AA sponsor, 'Father ___ while on the unit. She was also 
provided with numerous outpatient resoruces for alcohol 
dependence.

#Polysubstance Abuse: The patient was admitted to the unit also 
withdrawing from cocaine use and has a history of abusing many 
substances. The team educated the patient regarding the dangers 
of her polysubstance use and how such is negatively impacting 
her mood. The patient was provided with both individual and 
group therapy regarding his use of numerous illicit substances. 
She was provided with information and outpatient resources 
regardind substance abuse. As outlined above she was referred 
both the the program in ___ as well as local treaters.

----Medical
#No active issues. Vitals were checked on a daily basis and 
noted to be within normal range. 

----Psychosocial
#Groups/Milieu
The patient was noted to attend many groups and at times be an 
active participant. The patient was interactive with peers, 
active on the unit, and had no safety problems on the unit.

#Collateral
-___ ___. Expresses safety concerns but 
says "she is not suicidal" given her active alcohol and cocaine 
use. He states, "she is slowly killing herself with her 
addiction." He confirms that she has been increasingly depressed 
and socially isolative. He is in favor of inpatient treatment 
for "emotional treatment and help with addiction." 

----Legal Status: Patient was admitted on a CV and remained on 
such throughout the admission.

----Risk Assessment
This patient has a low to moderate risk of imminent danger to 
herself or others. The patient has numerous protective factors 
including no history of suicide, help seeking behaviors, no 
access to weapons, future orientation, and outpatient treaters 
in place. She also have several risk factors for self harm 
including her alcohol dependence and polysubstance abuse, 
divorced status, and psychosocial stressors including impending 
eviction and loss of custody of her son. While in the hospital 
we worked to address her modifiable risk factors. We addressed 
her alcohol dependence but treating her for withdrawal, 
providing group and individual therapy, updating her outpatient 
treaters, and referring her for further outpatient care and 
continued care. We also treated her polysubstance abuse in a 
similar manner as outlined above. In light of such, the patient 
certainly does remain at an elevated risk of self harm or 
suicide given her risk factors but with current, and hopefully 
continued sobriety, she does not represent an imminent danger to 
herself or others that requires inpatient level of care. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. QUEtiapine Fumarate 50 mg PO DAILY:PRN anxiety or insomnia 

 
Discharge Medications:
1. Chlordiazepoxide HCl 50 mg PO Q 12H Duration: 3 Doses 
Please take two times on ___ and one time on ___ 
RX *chlordiazepoxide HCl 25 mg 2 capsule(s) by mouth Twice a day 
for day 1, Once on day 2 Disp #*6 Capsule Refills:*0
2. QUEtiapine Fumarate 50 mg PO DAILY:PRN anxiety or insomnia 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
-Substance Induced Mood Disorder
-Alcohol Dependence and Withdrawal
-Cocaine Withdrawal and Abuse

 
Discharge Condition:
Patient ambulatory at baseline.

Appearance: Middle age female, no apparent distress.
Behavior: No abnormal behavior noted. No pma/pmr
Speech: Regular rate, tone, and volume.
Mood and Affect: 'Ok,' euthymic and congruent.
Thought process: Linear
Thought Content: Denies SI or HI or AVH. 
Judgment and Insight: Fair/Fair
Cognition: Alert and Orientated and able to recall recent and 
past events

 
Discharge Instructions:
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
-It was a pleasure to have worked with you, and we wish you the 
best of health
 
Followup Instructions:
___